US07960395B2
c) (2R)-2-{2-Chloro-5-[2-chloro-7-((1R)-1-hydroxymethylbutylamino)-thiazolo[4,5-d]pyrimidin-5-yldisulfanyl]-thiazolo[4,5-d]pyrimidin-7-ylamino}-pentan-1-ol
(2R)-2-[(2-Amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]pentan-1-ol (4.0 g, 14 mmol) was dissolved in acetonitrile (100 ml) and concentrated hydrochloric acid (150 mL). Sodium nitrite (1.93 g, 28 mmol) was dissolved in water (10 mL) and added at 0° C. The reaction mixture was left at 0° C. for 2 days until the reaction was complete by LCMS. The reaction mixture was poured onto ice and the precipitated product was collected by filtration. The solid was dried in vacuo to give 3.3 g (78% yield) of the title compound.

reactant | (2R)-2-[(2-Amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]pentan-1-ol | 14 mmol, 4.0 g | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CCC)S)N1 | C10H15N5OS2
reactant | hydrochloric acid | 150 mL | Cl | ClH
reactant | Sodium nitrite | 28 mmol, 1.93 g | N(=O)[O-].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
product | (2R)-2-{2-Chloro-5-[2-chloro-7-((1R)-1-hydroxymethylbutylamino)-thiazolo[4,5-d]pyrimidin-5-yldisulfanyl]-thiazolo[4,5-d]pyrimidin-7-ylamino}-pentan-1-ol | 3.3 g, 78% yield | ClC=1SC2=C(N=C(N=C2N[C@@H](CO)CCC)SSC=2N=C(C3=C(N2)N=C(S3)Cl)N[C@H](CCC)CO)N1 | C20H24Cl2N8O2S4
